US07655666B2
2-(4-Chloro-phenoxycarbonylamino)-5-(tetrahydro-furan-3-yl)-4-trifluoromethyl-benzoic acid methyl ester
4-Chlorophenyl chloroformate (27.3 μL, 1.1 equiv) was added to a solution of 2-amino-5-(tetrahydro-furan-3-yl)-4-trifluoromethyl-benzoic acid methyl ester (51.3 mg, 0.18 mmol) in dioxane (500 μL). The mixture was then stirred for 2 h (TLC control) at 80° C. The mixture was evaporated to dryness. The product was used in the next step without further purification. (rt 6.87 min.)

reactant | 4-Chlorophenyl chloroformate | 27.3 μL, 1.1 equiv | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | 2-amino-5-(tetrahydro-furan-3-yl)-4-trifluoromethyl-benzoic acid methyl ester | 0.18 mmol, 51.3 mg | COC(C1=C(C=C(C(=C1)C1COCC1)C(F)(F)F)N)=O | C13H14F3NO3
solvent | dioxane | 500 μL | O1CCOCC1 | C4H8O2
product | 2-(4-Chloro-phenoxycarbonylamino)-5-(tetrahydro-furan-3-yl)-4-trifluoromethyl-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C1COCC1)C(F)(F)F)NC(=O)OC1=CC=C(C=C1)Cl)=O | C20H17ClF3NO5
